US09303023B2
2-(4-(5-(m-Tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl 4-methyl-benzenesulfonate
To an ice-cooled solution of N-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide (2.57 g, 8.23 mmol) in DCM (70 mL), Et3N (3.44 mL, 24.69 mmol) was added. After stirring for 20 min at 0° C., p-toluenesulfonyl chloride (1.73 g, 9.05 mmol), was added dropwise, and the resulting suspension was stirred at 0° C. for 3 h, then quenched with water and extracted with DCM (2×). The combined org. layers were washed with 1 N aq. HCl-solution and brine, dried (MgSO4), filtered and concentrated in vacuo to obtain the title compound as an oil. LC-MS conditions A: tR=0.93 min, [M+H]+=467.46.

reactant | N-(1-(2-hydroxyethyl)-1H-pyrazol-4-yl)-5-(m-tolyl)oxazole-4-carboxamide | 8.23 mmol, 2.57 g | OCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C16H16N4O3
reactant | Et3N | 24.69 mmol, 3.44 mL | CCN(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 9.05 mmol, 1.73 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(5-(m-Tolyl)oxazole-4-carboxamido)-1H-pyrazol-1-yl)ethyl 4-methyl-benzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCN1N=CC(=C1)NC(=O)C=1N=COC1C=1C=C(C=CC1)C | C23H22N4O5S
